US06969710B2
2,4,6-Trimethyl-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]benzenesulfonamide was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide and 2-mesitylenesulfonylchloride (52 mg, 0.239 mmol) according to general method 3 to give 50 mg of a purple solid. MS (posES-FIA) m/z=Found: 515.3. Calcd 515.17. 1H-NMR δ 7.74 (d, 2H); 7.63-7.46 (m, 3H), 6.92 (s, 2H), 6.74-6.55 (m, 3H), 3.27-3.20 (m, 8H), 2.35 (s, 6H), 2.25 (s, 3H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
reactant | 2-mesitylenesulfonylchloride | 0.239 mmol, 52 mg | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
product | 2,4,6-Trimethyl-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]benzenesulfonamide | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)NC1=C(C=C(C=C1)N1CCNCC1)NS(=O)(=O)C1=CC=CC=C1 | C25H30N4O4S2
